US07279580B2
2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol (194 mg, 1.0 mmol) and 3′-bromo-4,2′,6′-trifluorobiphenyl-2-carbonitrile (343 mg, 1.1 mmol) were coupled following the procedure in Example 6 to afford 3′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]-4,2′,6′-trifluorobiphenyl-2-carbonitrile (155 mg, 36%) as a white solid: δH (360 MHz, CDCl3) 1.74 (6H, s), 2.07 (1H, s), 7.19-7.26 (2H, m), 7.41-7.49 (1H, m), 7.54-7.65 (3H, m), 7.73 (1H, s), 7.93 (1H, dd, J 7 and 7); m/z (ES+) 426 (100%, [MH]+).

reactant | 2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | 1.0 mmol, 194 mg | FC=1C=2N(C=CC1C(C)(C)O)C=CN2 | C10H11FN2O
reactant | 3′-bromo-4,2′,6′-trifluorobiphenyl-2-carbonitrile | 1.1 mmol, 343 mg | BrC=1C(=C(C(=CC1)F)C=1C(=CC(=CC1)F)C#N)F | C13H5BrF3N
product | 3′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]-4,2′,6′-trifluorobiphenyl-2-carbonitrile | 155 mg, 36% | FC=1C=2N(C=CC1C(C)(C)O)C(=CN2)C=2C(=C(C(=CC2)F)C=2C(=CC(=CC2)F)C#N)F | C23H15F4N3O
